Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Cetacaine / Lisinopril / Midazolam / aspirin / Pepcid / 
atorvastatin
 
Attending: ___
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms ___ is an ___ year old woman who presents to the ED with
complaints of a new headache. Neurology is consulted due to
findings of a venous sinus thrombosis on imaging. 

At baseline, Ms ___ reports she gets occasional, mild
headaches that are located bitemporally and respond very well to
Tylenol. She was also recently evaluated in ___
clinic for complaints of intermittent diplopia lasting only a 
few
seconds at a time. This started in approximately ___,
and always occurred in isolation with the exception of a single
episode of left facial numbness, for which she was evaluated in
the ED. At that time she was not seen by Neurology and no 
imaging
was performed. In ___ clinic, her exam was
essentially normal with the exception of some square wave jerks.
It was recommended that CTA be obtained (in addition to recently
obtained MRI) as well as myasthenia labs. She subsequently had
the CTA, which showed evidence of possible fibromuscular
dysplasia, but was otherwise normal. ACh binding and modulating
antibodies were negative, anti-MuSK and LRP antibodies were not
checked.

In the interim, she reports that her episodes of diplopia have
resolved. However, last night as she was getting into bed at
around 10pm, she noticed a "pressure"-like sensation on the left
side of her head and face when lying on that side. This pain was
mild and not terribly bothersome, but did wake her up a few 
times
from sleep. One of these times, she checked her blood pressure
and found it to be in the 170s. She took 2mg Valium, which she
has for essential tremor, but this did not help. The next time
she awoke at 5am, she looked at the TV to confirm that she did
not have any diplopia or other vision changes. Although there
were no issues with her vision, she decided to come to the ED 
due
to her new headaches.

In the ED, CT head and CTA head/neck were obtained and showed
evidence of a partially occlusive thrombus of the right
transverse sinus and jugular vein. In discussion with radiology,
these are felt to not be present on her most recent scans (CTA
___ and MRI ___ though quality of both these studies
is less than optimal. She currently has only a very mild 
pressure
on the left side of her head. 
 
Review of Systems: 
On neurological review of systems, the patient denies confusion,
difficulties producing or comprehending speech, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.
 

 
Past Medical History:
- Breast cancer in ___ no active disease
- Melanoma in ___ no active disease
- Jaw tremor noted approximately ___ never saw a neurologist;
referred to as "essential tremor"
- MGUS stable since ___
- Hyperlipidemia
- Bleeding polyps in stomach (bled with aspirin)
- GERD
- Pre-diabetes   
 
Social History:
___
Family History:
Mother and grandmother with essential tremor. Father had
___ disease. Stroke in mother at age ___. No other
neurologic disease. Brother had remote thyroid cancer. 
 
Physical Exam:
Vitals: T: 97.4 BP: 146/89 HR: 67 RR: 16 SaO2: 99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ (-1) bilaterally. Funduscopic exam revealed no 
papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. 
There
is a low frequency, high amplitude "no-no" tremor of the jaw
present both at rest and with action.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration throughout. No extinction to DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

 
Pertinent Results:
LABS
====
___ 10:00AM BLOOD WBC-7.8 RBC-4.46 Hgb-13.1 Hct-41.0 MCV-92 
MCH-29.4 MCHC-32.0 RDW-13.4 RDWSD-45.4 Plt ___
___ 10:00AM BLOOD Neuts-66.2 ___ Monos-7.4 Eos-0.9* 
Baso-0.8 Im ___ AbsNeut-5.19 AbsLymp-1.91 AbsMono-0.58 
AbsEos-0.07 AbsBaso-0.06
___ 10:00AM BLOOD Plt ___
___ 10:00AM BLOOD Glucose-98 UreaN-16 Creat-0.8 Na-144 
K-4.2 Cl-104 HCO3-28 AnGap-12
___ 10:00AM BLOOD Lipase-44
___ 10:00AM BLOOD Albumin-4.5
___ 10:00AM BLOOD CRP-5.6*
___ 10:00AM BLOOD ASA-NEG Acetmnp-12 Tricycl-NEG
___ 10:11AM BLOOD Creat-0.8

IMAGING
=======
CTA HEAD W&W/O C & RECONS Study Date of ___  
IMPRESSION:
1. No evidence of acute intracranial hemorrhage or infarction. 
2. Nonocclusive linear filling defect extending from the right 
distal 
transverse sinus to the right jugular bulb may be artifactual 
with 
nonocclusive thrombosis not excluded. Consider further 
evaluation with 
contrast-enhanced MRI head with MPRAGE sequence. 
3. Focal short-segment 6 milia dilatation of the distal right V2 
segment and 4 mm focal dilatation of the left V3 segment of the 
right vertebral artery are unchanged and likely represent 
aneurysm/pseudoaneurysms. 
4. Persistent luminal irregularities of the left mid cervical 
internal carotid artery and right V3 segment likely relate to 
clinical history of fibromuscular dysplasia. 
5. Mild atherosclerotic calcifications of the parasellar 
internal carotid 
arteries. 
6. No evidence of internal carotid artery stenosis by NASCET 
criteria. 

MR HEAD W & W/O CONTRAST Study Date of ___  
IMPRESSION:
1. Unremarkable MRA head. Widely patent circle of ___ 
vasculature. No 
aneurysm, stenosis, or occlusion. 
2. No acute intracranial abnormality. 
3. Patent major intracranial dural venous sinuses. Previously 
demonstrated 
linear filling defect, right sigmoid sinus and jugular bulb, not 
apparent on this study. 
4. Mild changes of chronic white matter microangiopathy. 
  

 
Brief Hospital Course:
Ms ___ is an ___ year old woman with a past medical history 
of hypertension, pre-diabetes, essential tremor (jaw, hands) who 
presented to the ED with acute left sided pressure-like headache 
without associated vision changes or other neurologic symptoms. 
Neurology was consulted after a CTA showed possibility of a non 
occlusive thrombus of the right transverse sinus and jugular 
vein. Notably has recent history of now resolved diplopia while 
watching television since ___ for which she was evaluated by 
Neuro-ophthalmology, interim CT/MRI studies did not show 
evidence of this potential nonocclusive thrombus. Given this 
presumed new finding, MRI with MPRage was performed and 
demonstrated no evidence of thrombus. Anticoagulation was not 
administered. At the time of discharge, patient denied headache 
or diplopia. Exam was notable for jaw and bilateral hand tremor, 
corrective saccades with cover/uncover testing. Discharged home 
as she was at her functional baseline.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Diazepam 2.5 mg PO DAILY:PRN socializing 
3. Metoprolol Succinate XL 25 mg PO BID 
4. Nateglinide 60 mg PO TIDAC 
5. TraMADol 50 mg PO DAILY:PRN ___ tab 
6. Reclast (zoledronic acid-mannitol-water) 5 mg/100 mL 
injection yearly 
7. Calcium Carbonate 1000 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY:PRN 
reflux 
10. Rogaine (minoxidil) 5 % topical DAILY 

 
Discharge Medications:
1.  Atorvastatin (atorvastatin) 20 mg oral QHS  
2.  Calcium Carbonate 1000 mg PO DAILY  
3.  Diazepam 2.5 mg PO DAILY:PRN socializing  
4.  Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY:PRN 
reflux  
5.  Metoprolol Succinate XL 25 mg PO BID  
6.  Nateglinide 60 mg PO TIDAC  
7.  Reclast (zoledronic acid-mannitol-water) 5 mg/100 mL 
injection yearly  
8.  Rogaine (minoxidil) 5 % topical DAILY  
9.  TraMADol 50 mg PO DAILY:PRN ___ tab  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Headache
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at the ___ 
___. You came to the hospital because you developed 
new headaches at home. We performed CT and MRI scans of your 
brain which were normal. Your neurologic exam was also normal. 
You were not started on any new medications. We believe it is 
safe for you to be discharged home. We talked to your primary 
care doctor on the phone and she is aware of your 
hospitalization.

Please follow-up with your doctors as ___ and continue to 
take your medications as prescribed.

We wish you all the best!
Your ___ care team
 
Followup Instructions:
___